US09304126B2
11-{4-[2-(2-Hydroxy-ethoxy)-ethyl]-piperazin-1-yl}-dibenzo[b,f][1,4]thiazepine-3-carboxylic acid amide
To a solution of 11-chloro-dibenzo[b,f][1,4]thiazepine-3-carboxylic acid amide, prepared as described in the previous step, (0.40 g) in DMF (1.5 mL) and toluene (1.5 mL) was added 2-(2-piperazin-1-yl-ethoxy)-ethanol (0.50 g, 2.9 mmol). The solution was heated in a 110° C. oil bath under nitrogen for 5 hours, concentrated, and purified (silica gel, 2-5% methanol-dichloromethane containing ammonia eluent) to give the title compound as an off white solid. LC-MS: m/z 427 (M+1).

reactant | 11-chloro-dibenzo[b,f][1,4]thiazepine-3-carboxylic acid amide | ClC1=NC2=C(SC3=C1C=CC(=C3)C(=O)N)C=CC=C2 | C14H9ClN2OS
reactant | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-(2-piperazin-1-yl-ethoxy)-ethanol | 2.9 mmol, 0.50 g | N1(CCNCC1)CCOCCO | C8H18N2O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 11-{4-[2-(2-Hydroxy-ethoxy)-ethyl]-piperazin-1-yl}-dibenzo[b,f][1,4]thiazepine-3-carboxylic acid amide | OCCOCCN1CCN(CC1)C1=NC2=C(SC3=C1C=CC(=C3)C(=O)N)C=CC=C2 | C22H26N4O3S
